US09340556B2
To the solution of (S)-4-tert-butyl 1-(4-methoxybenzyl) 2-(((Z)-(1-(2-((tert-butoxycarbonyl)amino)thiazol-4-yl)-2-(((5R,6R,7R)-3-(chloromethyl)-2-(((4-methoxybenzyl)oxy)carbonyl)-5-oxido-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-en-7-yl)amino)-2-oxoethylidene)amino)oxy)succinate (1.183 g, 1.25 mmol) in acetone (50 mL) at room temperature was added sodium iodide (0.234 g, 1.563 mmol). The mixture stirred at room temperature for 2 hours. Filtered and evaporated to give (S)-4-tert-butyl 1-(4-methoxybenzyl) 2-(((Z)-(1-(2-((tert-butoxycarbonyl)amino)thiazol-4-yl)-2-(((5R,6R,7R)-3-(iodomethyl)-2-(((4-methoxybenzyl)oxy)carbonyl)-5-oxido-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-en-7-yl)amino)-2-oxoethylidene)amino)oxy)succinate (1.1 g, 1.060 mmol, 85% yield). LCMS (M+H)+: 1038.9

reactant | (S)-4-tert-butyl 1-(4-methoxybenzyl) 2-(((Z)-(1-(2-((tert-butoxycarbonyl)amino)thiazol-4-yl)-2-(((5R,6R,7R)-3-(chloromethyl)-2-(((4-methoxybenzyl)oxy)carbonyl)-5-oxido-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-en-7-yl)amino)-2-oxoethylidene)amino)oxy)succinate | 1.25 mmol, 1.183 g | C(C)(C)(C)OC(=O)NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@H]2[S@@](CC(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)OC)CCl)=O)=N/O[C@H](C(=O)OCC1=CC=C(C=C1)OC)CC(=O)OC(C)(C)C | C42H48ClN5O14S2
reactant | sodium iodide | 1.563 mmol, 0.234 g | [I-].[Na+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | (S)-4-tert-butyl 1-(4-methoxybenzyl) 2-(((Z)-(1-(2-((tert-butoxycarbonyl)amino)thiazol-4-yl)-2-(((5R,6R,7R)-3-(iodomethyl)-2-(((4-methoxybenzyl)oxy)carbonyl)-5-oxido-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-en-7-yl)amino)-2-oxoethylidene)amino)oxy)succinate | 1.060 mmol, 1.1 g, 85% yield | C(C)(C)(C)OC(=O)NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@H]2[S@@](CC(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)OC)CI)=O)=N/O[C@H](C(=O)OCC1=CC=C(C=C1)OC)CC(=O)OC(C)(C)C | C42H48IN5O14S2
